data/mechanism_extracts/OrgLett/10.1021_acs.orglett.4c03922.json
{"doi": "10.1021_acs.orglett.4c03922", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical regio- and stereoselective 1,4-carboalkoxylation of 1,3-dienes with Meldrum's acid-type 1,3-dioxan-4,6-diones and alcohols to give (E)-polyfunctionalized allyl ethers", "mechanism_family": ["radical_polar_crossover", "radical_anodic", "paired_electrolysis"], "electrochemical_role": "Paired electrolysis in undivided cell: cathodic reduction of R5OH generates alkoxide (with H2 release); anodic oxidation of deprotonated Meldrum's acid enolate (Eox = 0.44 V vs SCE in DMF) generates an electron-poor C-radical that adds to the diene, followed by a second anodic oxidation of the resulting allyl radical to an allyl cation", "key_intermediates": [{"name": "Meldrum's acid-derived enolate (10)", "smiles": null, "role": "reactive"}, {"name": "Electron-poor C-centered radical from Meldrum's acid (11)", "smiles": null, "role": "reactive"}, {"name": "Allyl radical adduct on diene (12)", "smiles": null, "role": "transient"}, {"name": "Allyl cation (13) trapped by alkoxide/methanol", "smiles": null, "role": "reactive"}, {"name": "Alkoxide (R5O-) from cathodic reduction of alcohol", "smiles": null, "role": "reactive"}, {"name": "BHT-radical adduct 9 (detected by HRMS, [M+H]+ = 379.2250)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cathode reduces the alcohol to alkoxide + H2; the alkoxide deprotonates Meldrum's acid to give enolate 10, which is anodically oxidized to electron-poor radical 11. Radical 11 adds to the less hindered terminus of the 1,3-diene to give allyl radical 12, which is further oxidized at the anode to allyl cation 13; the alkoxide traps 13 at the 1,4-position to deliver the (E)-allyl ether product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction inhibited, consistent with radical intermediates"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction inhibited; BHT-Meldrum's adduct 9 detected by HRMS only when current was applied (with or without diene), supporting anodic generation of radical 11"}, {"name": "On/off current control", "smiles": null, "purpose": "other", "observation": "No reaction without power supply, even in the presence of MeONa; current is required"}, {"name": "Cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Eox(enolate-MA) = 0.44 V vs SCE; Eox(diene 2a) = 1.81 V and Eox(diene 2d) = 1.16 V vs SCE in DMF — enolate is far easier to oxidize than the dienes, supporting initial anodic oxidation of the enolate rather than the diene"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "1,4-regioselectivity (vs the more common 1,2-mode in radical carbooxygenations) is rationalized by an interplay between the EWG character and steric hindrance of the 1,3-dioxan-4,6-dione moiety disfavoring addition at C2, plus a proposed H-bonding directing event from the boat conformation of Meldrum's acid steering alcohol delivery to C4 of cation 11/13. Authors explicitly state further mechanistic studies are underway."}
